US04578503
A mixture of dried CsF (9.11 g, 60 mmol), diglyme (41 ml), dimethyl(trifluoromethyl)malonate (4 g, 20 mmol), and methyl iodide (3.12 g, 22 mmol) was stirred overnight at room temperature. The reaction mixture was poured into water and the resultant oily layer and the ether-extract from the aqueous layer were combined and washed with water to remove diglyme. After drying over MgSO4, the ether was evaporated and the residue was subjected to distillation, giving dimethyl methyl(trifluoromethyl)malonate (2.56 g, 60%), b.p. 63°-65° C./10 mmHg. This product showed the following analytical properties: 19F NMR: δ--7.5 (s, CF3); 1H NMR: δ 3.81 (s, 6H, CO2CH3), 1.66 (s, CH3).

reactant | CsF | 60 mmol, 9.11 g | [F-].[Cs+]
reactant | diglyme | 41 ml | COCCOCCOC | C6H14O3
reactant | dimethyl(trifluoromethyl)malonate | 20 mmol, 4 g | COC(C(C(=O)OC)C(F)(F)F)=O | C6H7F3O4
reactant | methyl iodide | 22 mmol, 3.12 g | CI | CH3I
solvent | water | O | H2O
product | dimethyl methyl(trifluoromethyl)malonate | 2.56 g, 60% | CC(C(=O)OC)(C(=O)OC)C(F)(F)F | C7H9F3O4
